US07871998B2
tert-Butyl {4-[(2R,3R)-3-{[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetate
tert-Butyl (4-{(1S,2R)-2-{[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-1-[(4-fluorophenyl)amino]-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate (2.6 g, 3.4 mmol) was dissolved in dry toluene (250 ml) and heated to 90° C. under inert atmosphere. N,O-Bis(trimethylsilyl)acetamide (BSA, 2.5 ml, 10.3 mmol) was added and the mixture was stirred at 90° C. for one hour. The mixture was cooled to 45° C. and tetrabutylammonium fluoride (TBAF, cat., 0.5 g) was added. The mixture was stirred at 45° C. for two hours. The mixture was concentrated under reduced pressure and purified by flash-chromatography (hexane:EtOAc 7:1). This afforded 0.65 g (31%) of the title compound as a yellow solid. 1H-NMR (CDCl3, 200 MHz): δ 0.6 (s, 3H), 1.2 (s, 3H), 1.5 (s, 9H), 2.9-3.1 (q, broad, 2H), 3.4 (q, 4H), 4.0 (s, 1H), 4.5 (s, 2H), 4.8 (s, 1H), 6.9-7.0 (m, 4H), 7.2-7.3 (m, 5H), 4.3-4.4 (m, 4H).

reactant | tert-Butyl (4-{(1S,2R)-2-{[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-1-[(4-fluorophenyl)amino]-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate | 3.4 mmol, 2.6 g | CC1(COC(OC1)(C1=CC=CC=C1)CS[C@H]([C@@H](NC1=CC=C(C=C1)F)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1)C(N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O)C | C43H47FN2O8S
reactant | N,O-Bis(trimethylsilyl)acetamide | 10.3 mmol, 2.5 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | tetrabutylammonium fluoride | 0.5 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl {4-[(2R,3R)-3-{[(5,5-dimethyl-2-phenyl-1,3-dioxan-2-yl)methyl]thio}-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenoxy}acetate | CC1(COC(OC1)(C1=CC=CC=C1)CS[C@@H]1[C@H](N(C1=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1)C | C34H38FNO6S
